US07060827B2
In a manner analogous to the preparation of N2,N4-bis(3-carboxyphenyl)-5-fluoro-2,4-pyrimidinediamine, N2,N4-bis(3-methoxy-4-methoxycarbonylphenyl)-5-fluoro-2,4-pyrimidinediamine (30 mg, 0.06 mmol) and NaOH (200 mg, 5 mmol) gave N2,N4-bis(4-carboxy-3-methoxyphenyl)-5-fluoro-2,4-pyrimidinediamine (18 mg, 64%) as a white solid. 1H NMR (DMSO-d6): δ 3.66 (s, 3H), 3.73 (s, 3H), 7.37 (d, J=8.4 Hz, 1H), 7.47 (s, 1H), 7.49 (s, 1H), 7.61–7.71 (m, 3H), 8.25 (d, J=3.6 Hz, 1H), 9.65 (s, 1H, NH), 9.70 (s, 1H, NH); 19F NMR (282 MHz, DMSO-d6): δ −162.11; LCMS: ret. time: 17.25 min.; purity: 100%; MS (m/e): 429.04 (MH+).

reactant | N2,N4-bis(3-carboxyphenyl)-5-fluoro-2,4-pyrimidinediamine | C(=O)(O)C=1C=C(C=CC1)NC1=NC=C(C(=N1)NC1=CC(=CC=C1)C(=O)O)F | C18H13FN4O4
reactant | N2,N4-bis(3-methoxy-4-methoxycarbonylphenyl)-5-fluoro-2,4-pyrimidinediamine | 0.06 mmol, 30 mg | COC=1C=C(C=CC1C(=O)OC)NC1=NC=C(C(=N1)NC1=CC(=C(C=C1)C(=O)OC)OC)F | C22H21FN4O6
reactant | NaOH | 5 mmol, 200 mg | [OH-].[Na+]
product | N2,N4-bis(4-carboxy-3-methoxyphenyl)-5-fluoro-2,4-pyrimidinediamine | 18 mg, 64% | C(=O)(O)C1=C(C=C(C=C1)NC1=NC=C(C(=N1)NC1=CC(=C(C=C1)C(=O)O)OC)F)OC | C20H17FN4O6
